US08304419B2
5-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-oxo-2,3-dihydro-1H-imidazole-4-carboxamide
BBr3 (0.28 mL of a 1M solution in CH2Cl2, 0.28 mmol) was added to a solution of 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(methyloxy)-1H-imidazole-5-carboxamide (0.044 g, 0.093 mmol) in CH2Cl2 (1 mL). After 2 h, additional BBr3 (0.30 mL of a 1M solution in CH2Cl2, 0.30 mmol) was added and the reaction mixture was stirred for 3 days. The solution was evaporated, additional BBr3 (1 mL of a 1M solution in CH2Cl2, 1 mmol) was added and the reaction mixture was stirred for 5 days. Sat'd NaHCO3 was added and the mixture was extracted with EtOAc and then CH2Cl2. The organic phase was dried (Na2SO4), filtered, and purified by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA) to provide the title compound (0.006 g, 15%) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.38 (s, 1H) 10.41 (s, 1H) 8.06 (t, J=5.68 Hz, 1H) 7.82 (s, 1H) 7.48-7.54 (m, 2H) 7.46 (t, J=1.97 Hz, 1

reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | 4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-(methyloxy)-1H-imidazole-5-carboxamide | 0.093 mmol, 0.044 g | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)OC | C19H12Cl3FN4O3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-oxo-2,3-dihydro-1H-imidazole-4-carboxamide | 0.006 g, 15% | ClC1=C(NC(N1)=O)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C18H10Cl3FN4O3
